US07291631B2
Using General Procedure B: Reaction of (3-aminopropyl)-carbamic acid tert-butyl ester and 3,5-dimethylpyridine-2-carboxaldehyde in anhydrous MeOH with NaBH4 gave {3-[(3,5-dimethyl-pyridin-2-ylmethyl)-amino]-propyl}-carbamic acid tert-butyl ester as a brown oil.

reactant | (3-aminopropyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCN)=O | C8H18N2O2
reactant | 3,5-dimethylpyridine-2-carboxaldehyde | CC=1C(=NC=C(C1)C)C=O | C8H9NO
reactant | NaBH4 | [BH4-].[Na+]
solvent | MeOH | CO | CH4O
product | {3-[(3,5-dimethyl-pyridin-2-ylmethyl)-amino]-propyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCNCC1=NC=C(C=C1C)C)=O | C16H27N3O2
